US05177087
1-Carbobenzoxy-4-(4-pyrrolidinobenzoyl)piperidine
A mixture consisting of 4.1 g of 1-carbobenzoxy-4-(4-fluorobenzoyl)piperidine and 8 ml of pyrrolidine was stirred at 100° C. for 24 hours and the reaction mixtures was then worked up in the same manner as Example 2 to give 3.2 g of the title compound as oil.

reactant | 1-carbobenzoxy-4-(4-fluorobenzoyl)piperidine | 4.1 g | C(=O)(OCC1=CC=CC=C1)N1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C20H20FNO3
reactant | pyrrolidine | 8 ml | N1CCCC1 | C4H9N
product | 1-Carbobenzoxy-4-(4-pyrrolidinobenzoyl)piperidine | 3.2 g | C(=O)(OCC1=CC=CC=C1)N1CCC(CC1)C(C1=CC=C(C=C1)N1CCCC1)=O | C24H28N2O3
